US04423225
114.5 g of methanesulphonic acid chloride were added dropwise to 70 g of pyrazoline and 101 g of triethylamine in 300 ml of methylene chloride at room temperature. The mixture was subsequently stirred at room temperature for 3 hours and was filtered. The filtrate was washed with water, dried over sodium sulphate and concentrated. 114 g (77% of theory) of methanesulphonylpyrazoline of melting point 62° C. were obtained.

reactant | methanesulphonic acid chloride | 114.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrazoline | 70 g | N1NC=CC1 | C3H6N2
reactant | triethylamine | 101 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | methanesulphonylpyrazoline | 114 g, 77% | CS(=O)(=O)N1NC=CC1 | C4H8N2O2S
